US06620838B1
E. 3-(4-chlorophenyl)-4-(4-(2-pyrrolidin-1-ylethoxy)benzyl)-7-hydroxychromen-2-one hydrochloride
A solution of 3-(4-chlorophenyl)-4-(4-(2-bromoethoxy)benzyl)-7-hydroxychromen-2-one (8.3 g, 17.2 mmol) in 200 mL of THF was treated with 8 mL of pyrrolidine and the reaction mixture was heated at reflux for 5 h. The reaction mixture was concentrated and the crude product was purified using flash chromatography. The product was suspended in 250 mL of acetone and 4 mL of 5 M HCl(aq) was added. The mixture was stirred at room temperature overnight and the resulting solid was collected by filtration. The solid was suspended in 200 mL of ethyl acetate and the suspension was heated at reflux for 2h. The solution was cooled to room temperature and the final product was collected by filtration and dried under vacuum. The final yield was 4.96 grams (56%). 1H NMR (300 MHz, DMSO) δ 10.62 (s, 1H), 10.42 (s, 1H), 7.47 (d, 2H, J=8.5 Hz), 7.43 (d 1H, J=8.8 Hz), 7.34 (d, 2H, J=8.5 Hz), 7.09 (d, 2H, J=8.5 Hz), 6.87 (d, 2H, J=8.5 Hz), 6.77 (d, 1H, J=2.5 Hz), 6.71 (dd, 1H, J=2.5, 8.8 Hz), 4.26 (t, 2H, 4.9 Hz), 3.96 (s, 2H), 3.59-3.51 (m, 4H), 3.15-3.02 (m, 2H), 2.03-1.88 (m, 4H). MS (ESI) m/z 476 (M+H)+.

reactant | 3-(4-chlorophenyl)-4-(4-(2-bromoethoxy)benzyl)-7-hydroxychromen-2-one | 17.2 mmol, 8.3 g | ClC1=CC=C(C=C1)C=1C(OC2=CC(=CC=C2C1CC1=CC=C(C=C1)OCCBr)O)=O | C24H18BrClO4
reactant | pyrrolidine | 8 mL | N1CCCC1 | C4H9N
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 3-(4-chlorophenyl)-4-(4-(2-pyrrolidin-1-ylethoxy)benzyl)-7-hydroxychromen-2-one hydrochloride | Cl.ClC1=CC=C(C=C1)C=1C(OC2=CC(=CC=C2C1CC1=CC=C(C=C1)OCCN1CCCC1)O)=O | InChI=1S/C28H26ClNO4.ClH/c29-21-7-5-20(6-8-21)27-25(24-12-9-22(31)18-26(24)34-28(27)32)17-19-3-10-23(11-4-19)33-16-15-30-13-1-2-14-30;/h3-12,18,31H,1-2,13-17H2;1H
